US06239131B1
Preparation of 3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid
1-(1-tert-Butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-ethoxycarbonylphenyl)urea (370 mg) was suspended in methanol (5 ml), aqueous lithium hydroxide monohydrate (142 mg) solution (5 ml) was added to the suspension, and the mixture was stirred at 50° C. for 2 hours. The reaction mixture was filtrated. The filtrate was acidified with 1N hydrochloric acid, and methanol was evaporated. The mixture was extracted with ethyl acetate, the organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. The residue was recrystallized from isopropyl alcohol, to thereby obtain 300 mg of the title compound (Yield: 83%).

reactant | 1-(1-tert-Butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-ethoxycarbonylphenyl)urea | 370 mg | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O | C32H42N4O5
reactant | lithium hydroxide monohydrate | 142 mg | O.[OH-].[Li+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid | 300 mg, Yield: 83% | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2CCCCC2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O | C30H38N4O5
